.subckt andblock A3 A2 A1 A0 B3 B2 B1 B0 C3 C2 C1 C0 vdd gnd
   X82 A0 B0 C0 vdd gnd AND
   X83 A1 B1 C1 vdd gnd AND
   X84 A2 B2 C2 vdd gnd AND
   X85 A3 B3 C3 vdd gnd AND

.ends andblock